US08283353B2
5-(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)-1,3-oxazole-4-carboxylic acid
A mixture of ethyl 5-(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)-1,3-oxazole-4-carboxylate (1.3 g), 1N aqueous sodium hydroxide solution (10 mL), tetrahydrofuran (10 mL) and methanol (10 mL) was stirred at 50° C. for 16 hr. 1N Aqueous hydrochloric acid solution was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give the title compound as a colorless solid (0.94 g, 76%).

reactant | ethyl 5-(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)-1,3-oxazole-4-carboxylate | 1.3 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)C2=C(N=CO2)C(=O)OCC)=O | C34H34N6O4
reactant | sodium hydroxide | 1N, 10 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 10 mL | CO | CH4O
product | 5-(trans-4-{6-[(2′-cyanobiphenyl-4-yl)methyl]-5-oxo-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-4(5H)-yl}cyclohexyl)-1,3-oxazole-4-carboxylic acid | 0.94 g, 76% | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2CC[C@H](CC2)C2=C(N=CO2)C(=O)O)=O | C32H30N6O4
